* \\wsl.localhost\Ubuntu\home\aguayo\NoRepo\Simulacion\Draft4.asc
C1 N001 N002 2.2µ
C2 Vo 0 54µ Rser=0.3
R1 Vo 0 500
V1 Vi 0 24
V2 pwm 0 PULSE(0 15 0 1n 1n {D*T} {T})
L1 Vi N001 3m Rser=1
L2 0 N002 3m Rser=1
D1 N002 Vo D
S1 N001 0 pwm 0 MySW
C3 N001 0 1p
.model D D
.lib C:\Users\aguay\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 100m 0
.param D={1/3}
.param f=100e3
.param T {1/f}
.model MyD D (Ron=.00001 Roff=1Meg Vfwd=0.001)
.model MySW SW (Ron=.1 Roff=1Meg Vt=5)
.include irf520n.spi
.step param D list 0.33333 0.5 0.66667
.backanno
.end
